US06608078B2
Sodium borohydride (0.3 g, 9.0 mmole) was added to the stirred solution of the 1-benzyl-3-ethyl-3-methylpiperid-4-one (1.5 g, 6.5 mmole) in methanol (20 ml) at 0-5° C. over a period of 5 min, and stirring was continued for 2 hr at ambient temperature. The reaction mixture was concentrated to dryness, triturated with water (20 ml) and extracted with ethyl acetate (2×50 ml). The extract was dried over sodium sulphate and concentrated to dryness to furnish 1-benzyl-3-ethyl-4-hydroxy-3-methylpiperidine product as oil, which was used as such in the next step. Yield 1.1 g (74%), C15H23NO, m/z 234 (M+1).

reactant | Sodium borohydride | 9.0 mmole, 0.3 g | [BH4-].[Na+]
reactant | 1-benzyl-3-ethyl-3-methylpiperid-4-one | 6.5 mmole, 1.5 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)CC | C15H21NO
solvent | methanol | 20 ml | CO | CH4O
product | 1-benzyl-3-ethyl-4-hydroxy-3-methylpiperidine | C(C1=CC=CC=C1)N1CC(C(CC1)O)(C)CC | C15H23NO
